Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Left flank pain, 4mm stone
 
Major Surgical or Invasive Procedure:
Urethral dilation, cystoscopy, left ureteral stent placement
___

 
History of Present Illness:
Patient is a ___ male with no history of stones who presented
to the ED this evening with ___ days of left flank pain and LLQ
pain. He reports occasional chills and subjective fevers. He has
some nausea but no emesis. He has dysuria but no hematuria,
frequency or urgency. 

He follows with urologist Dr ___ for BPH s/p TURP in
___. In ___ he had a weakened stream and office
cystoscopy was notable for what sounds to be bladder neck
contracture. The plan was for dilation in ___
unfortunately this was put on hold given other issues that the
patient was dealing with. He still reports a weak stream but
feels that he can empty his bladder
 
Past Medical History:
HERPES ZOSTER                                                   
HYPERTENSION                                                    
HYPERLIPIDEMIA                                                  
DIABETES TYPE II                                                
CORONARY ARTERY DISEASE                                         
HERNIATED DISC 
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
On admission:
T 99 HR 114 BP 169/85 RR 18 96% RA
Gen: No distress, oriented
HEENT: Extraocular movements intact, face symmetric
CHEST: Warm and well-perfused
BACK: Non-labored breathing, no CVAT bilaterally
ABD: Soft, non-tender, non-distended, no guarding or rebound
EXT: Moves all extremities well
PSY: Appropriately interactive
 
Pertinent Results:
___ 06:20PM BLOOD WBC-17.5*# RBC-4.85 Hgb-13.8 Hct-41.5 
MCV-86 MCH-28.5 MCHC-33.3 RDW-13.1 RDWSD-40.2 Plt ___
___ 06:40AM BLOOD WBC-9.2 RBC-3.92* Hgb-10.9* Hct-34.3* 
MCV-88 MCH-27.8 MCHC-31.8* RDW-13.0 RDWSD-40.9 Plt ___

___ 06:20PM BLOOD Glucose-198* UreaN-24* Creat-1.6* Na-140 
K-4.3 Cl-98 HCO3-18* AnGap-28*
___ 06:40AM BLOOD Glucose-251* UreaN-17 Creat-1.2 Na-139 
K-4.3 Cl-102 HCO3-27 AnGap-14
 
Brief Hospital Course:
The patient presented to the emergency department overnight 
where a 4mm left obstructing stone was diagnosed. He was 
afebrile but with persistent tachycardia and a leukocytosis. He 
was taken that morning to the operating room for cystoscopy and 
left ureteral stent placement. His bladder neck contracture was 
also dilated at that time. He was then admitted to Dr. 
___ service ___ operatively. He maintained a 
foley overnight. The following morning this was discontinued and 
he voided without difficulty. He was tolerating a regular diet.  
His nausea resolved. He remained afebrile and HR and bp 
normalized. His creatinine also normalized. He was given Flomax 
to help facilitate passage of his stone and stent toleration. At 
discharge, patient's pain well controlled with oral pain 
medications, tolerating regular diet, ambulating without 
assistance, and voiding without difficulty. He is given explicit 
instructions to call Dr. ___ follow-up.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Diazepam 5 mg PO Q12H:PRN anxiety 
3. Metoprolol Tartrate 50 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Atorvastatin 40 mg PO QPM 
6. Pantoprazole 40 mg PO Q12H 
7. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1. Diazepam 5 mg PO Q12H:PRN anxiety 
2. Losartan Potassium 50 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Metoprolol Tartrate 50 mg PO DAILY 
5. Pantoprazole 40 mg PO Q12H 
6. Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth before bed Disp #*30 
Capsule Refills:*2
7. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0
8. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN moderate to 
severe pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q6 hr Disp #*25 Tablet 
Refills:*0
9. Atorvastatin 40 mg PO QPM 
10. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left mid-ureteral stone

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this is normal and may be related to the passage of 
stone fragments or the indwelling ureteral stent (if there is 
one). Bleeding will gradually improve.

-The kidney stone was lasered into many small fragments which 
are still in the process of passing.

-You may experience some pain associated with spasm of your 
ureter. This is normal. Take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-Do not lift anything heavier than a phone book (10 pounds) 

-Resume all of your pre-admission medications, except HOLD 
aspirin until you see your urologist in follow-up 

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and available over the counter. 
The generic name is DOCUSATE SODIUM. It is recommended that you 
use this medication.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks 

 
Followup Instructions:
___